US04730055
A solution of 20 ml of toluene containing 1.26 grams (5.62 millimoles) of N-n-butyl-4-chlorophthalimide and 2.0 grams (1.12 millimoles) of 1,2-dimethoxytetramethyldisilane and 40 milligrams (5 mole percent) of tetrakistriphenylphenylphosphine palladium was heated under argon to reflux. The refluxing solution turned to a golden yellow and then to a deep red color. After refluxing for 48 hours, the mixture was allowed to cool and it was stripped of organic solvent. The residue was then purified by adding 30 ml of dry hexane. Residue was removed by filtration followed by removal of the solvent in vacuo. There was obtained an 83% yield of 4-(dimethylmethoxysilyl)-N-n-butylphthalimide. The identity of the product was further confirmed by mass spectral gas chromatographic analysis.

reactant | toluene | 5.62 millimoles, 20 ml, 1.26 grams | C1(=CC=CC=C1)C | C7H8
reactant | N-n-butyl-4-chlorophthalimide | C(CCC)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C12H12ClNO2
reactant | 1,2-dimethoxytetramethyldisilane | 1.12 millimoles, 2.0 grams | CO[Si]([Si](OC)(C)C)(C)C | C6H18O2Si2
product | 4-(dimethylmethoxysilyl)-N-n-butylphthalimide | 83% yield | C[Si](C=1C=C2C(C(=O)N(C2=O)CCCC)=CC1)(OC)C | C15H21NO3Si
